US08710236B2
A mixture of 3-[4-(2-Benzyloxyethoxy)-phenyl]-2-(4-tert-butylphenyl)-N-(4-cyclohexylmethoxyphenyl)-propionamide (200 mg, 0.32 mmol) and 10% Pd/C (20 mg) in a solution of methanol/ethyl acetate (60 mL, 4:1) was stirred under an atmosphere of H2 overnight. The mixture was filtered through celite and concentrated under vacuum. The crude was purified by chromatography on silica gel (ISCO cartridge, 40 g), eluting with dichloromethane over 20 minutes to afford 2-(4-tert-Butylphenyl)-N-(4-cyclohexylmethoxyphenyl)-3-[4-(2-hydroxy ethoxy)-phenyl]-propionamide (126 mg, 74%). LC-MS m/z=530 [C34H43NO4+H]+.

reactant | 3-[4-(2-Benzyloxyethoxy)-phenyl]-2-(4-tert-butylphenyl)-N-(4-cyclohexylmethoxyphenyl)-propionamide | 0.32 mmol, 200 mg | C(C1=CC=CC=C1)OCCOC1=CC=C(C=C1)CC(C(=O)NC1=CC=C(C=C1)OCC1CCCCC1)C1=CC=C(C=C1)C(C)(C)C | C41H49NO4
catalyst | Pd/C | 20 mg | [Pd] | Pd
solvent | methanol ethyl acetate | 60 mL | CO.C(C)(=O)OCC
product | 2-(4-tert-Butylphenyl)-N-(4-cyclohexylmethoxyphenyl)-3-[4-(2-hydroxy ethoxy)-phenyl]-propionamide | 126 mg, 74% | C(C)(C)(C)C1=CC=C(C=C1)C(C(=O)NC1=CC=C(C=C1)OCC1CCCCC1)CC1=CC=C(C=C1)OCCO | C34H43NO4
